US08202885B2
A solution of 1.84 g of [3-(4-Acetylamino-1H-benzoimidazol-2-yl)-propyl]-methyl-carbamic acid tert-butyl ester in 2.6 mL of EtOAc was treated with 7.75 mL of 4M-HCl in dioxane for 5 h and concentrated in vacuo to yield 1.7 g of N-[2-(3-methylamino-propyl)-1H-benzoimidazol-4-yl]-acetamide hydrochloride salt as yellow solid.

reactant | [3-(4-Acetylamino-1H-benzoimidazol-2-yl)-propyl]-methyl-carbamic acid tert-butyl ester | 1.84 g | C(C)(C)(C)OC(N(C)CCCC1=NC2=C(N1)C=CC=C2NC(C)=O)=O | C18H26N4O3
reactant | HCl | Cl | ClH
solvent | EtOAc | 2.6 mL | CCOC(=O)C | C4H8O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-[2-(3-methylamino-propyl)-1H-benzoimidazol-4-yl]-acetamide hydrochloride salt | 1.7 g | Cl.CNCCCC1=NC2=C(N1)C=CC=C2NC(C)=O | InChI=1S/C13H18N4O.ClH/c1-9(18)15-10-5-3-6-11-13(10)17-12(16-11)7-4-8-14-2;/h3,5-6,14H,4,7-8H2,1-2H3,(H,15,18)(H,16,17);1H
